US08071586B2
C) (rac)-4-(3-Hydroxy-1-methoxymethyl-propyl)-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester
3.22 ml (3.22 mmol, 1 M in tetrahydrofuran) tetrabutylammonium fluoride were added to a cooled solution (0° C.) of 1.36 g (2.93 mmol) (rac)-4-[3-(tert-butyl-dimethyl-silanyloxy)-1-methoxymethyl-propyl]-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester in 29 ml tetrahydrofuran. After 50 min water was added and extracted with ethyl acetate (3×). The organic phases were washed with water (2×), dried over Na2SO4 and evaporated. Flash chromatography on silica gel with a gradient 2% to 4% methanol in dichloromethane yielded 0.79 g (77%) of the title compound as a colorless oil, MS: 263 (M).

reactant | tetrabutylammonium fluoride | 3.22 mmol, 1 M, 3.22 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (rac)-4-[3-(tert-butyl-dimethyl-silanyloxy)-1-methoxymethyl-propyl]-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | 2.93 mmol, 1.36 g | C(C1=CC=CC=C1)OC(=O)N1CCN(C(CC1)=O)C(CCO[Si](C)(C)C(C)(C)C)COC | C24H40N2O5Si
reactant | water | O | H2O
solvent | tetrahydrofuran | 29 ml | O1CCCC1 | C4H8O
product | (rac)-4-(3-Hydroxy-1-methoxymethyl-propyl)-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | 0.79 g, 77% | C(C1=CC=CC=C1)OC(=O)N1CCN(C(CC1)=O)C(CCO)COC | C18H26N2O5
